US07517910B2
ethyl 3-[4-({4-[(3-tert-butyl-5-phenyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)-2-fluorophenyl]propanoate
To a mixture of {4-[(3-tert-butyl-5-phenyl-1H-pyrazol-1-yl)methyl]phenyl}methanol (320 mg, 1.0 mmol), ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate (212 mg, 1.0 mmol), triphenylphosphine (262 mg, 1.0 mmol) and dichloromethane (5 mL) added dropwise diethyl azodicarboxylate (40% toluene solution, 435 mg, 1.0 mmol) with stirring at room temperature, and the mixture was stirred at room temperature for 1 hr. After completion of the reaction, the reaction mixture was purified by silica gel column chromatography (hexane:ethyl acetate=19:1-1:2) to give the title compound as a yellow oil. 1H NMR (CDCl3) δ: 1.26 (3H, t, J=7.2 Hz), 1.37 (9H, s), 2.58 (2H, t, J=7.6 Hz), 2.90 (2H, t, J=7.6 Hz), 4.12 (2H, q, J=7.2 Hz), 4.97 (2H, s), 5.32 (2H, s), 6.20 (1H, s), 6.60-6.70 (2H, m), 7.02 (2H, d, J=8.1 Hz), 7.09 (1H, t, J=8.8 Hz), 7.25-7.40 (7H, m).

reactant | {4-[(3-tert-butyl-5-phenyl-1H-pyrazol-1-yl)methyl]phenyl}methanol | 1.0 mmol, 320 mg | C(C)(C)(C)C1=NN(C(=C1)C1=CC=CC=C1)CC1=CC=C(C=C1)CO | C21H24N2O
reactant | ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate | 1.0 mmol, 212 mg | FC1=C(C=CC(=C1)O)CCC(=O)OCC | C11H13FO3
reactant | triphenylphosphine | 1.0 mmol, 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.0 mmol, 435 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ethyl 3-[4-({4-[(3-tert-butyl-5-phenyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)-2-fluorophenyl]propanoate | C(C)(C)(C)C1=NN(C(=C1)C1=CC=CC=C1)CC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C32H35FN2O3
